US04292248
1-Nitroanthraquinone (96.4%, 3.4%-dinitroanthraquinones), (7.6 g; 0.03 mole), dimethylformamide (50 ml), and sodium formate (4.1 g; 0.06 mole) were stirred at 130° C. for 17 hours. There was a slow evolution of gas during the reaction period. The reaction mass was cooled, mixed with water (300 ml) and acidified with 32% hydrochloric acid. The resulting suspension was stirred for one hour and filtered. The cake obtained was washed with water, then dried to give 1-hydroxyanthraquinone (6.6 g; 0.03 mole) which by gas chromatographic analysis contained 96.4% 1-hydroxyanthraquinone; 1.8% 1-nitroanthraquinone and 1.8% anthraquinone.

reactant | 1-Nitroanthraquinone | 0.03 mole, 7.6 g | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7NO4
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | sodium formate | 0.06 mole, 4.1 g | C(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 1-hydroxyanthraquinone | 0.03 mole, 6.6 g | OC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O3
